US05135938
(b) Methyl 2-(2-dodecylphenyl)-2-[2-(tetrazol-5-yl)ethylthio]acetate
A mixture of methyl 2-chloro-2-(2-dodecyl phenyl)acetate (0.615 g, 1.75 mmol), 5-(2-mercaptoethyl)-tetrazole (0.227 g, 1.75 mmol), and triethylamine (0.48 ml), 3.5 mmol) in 20 ml of methylene chloride was stirred 18 hours at 22° and the solvent was evaporated. The residue taken up in diethyl ether, washed with 1 N hydrochloric acid, dried and the solvent removed. The residue was chromatographed over a silica gel column. Impurities were eluted with ethyl acetate/hexane (1:3), and the product was eluted with methanol/ethyl acetate (1:19). Evaporation of the solvents from these fractions gave the desired product, 0.570 g (73%).

reactant | methyl 2-chloro-2-(2-dodecyl phenyl)acetate | 1.75 mmol, 0.615 g | ClC(C(=O)OC)C1=C(C=CC=C1)CCCCCCCCCCCC | C21H33ClO2
reactant | 5-(2-mercaptoethyl)-tetrazole | 1.75 mmol, 0.227 g | SCCC1=NN=NN1 | C3H6N4S
reactant | triethylamine | 0.48 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(2-dodecylphenyl)-2-[2-(tetrazol-5-yl)ethylthio]acetate | C(CCCCCCCCCCC)C1=C(C=CC=C1)C(C(=O)OC)SCCC1=NN=NN1 | C24H38N4O2S
